US05036094
Preparation of 2-(2,4-dichlorophenyl)-2-bromomethyl-4-(1,1,2,2-tetrafluoroethoxy)methyl-1,3-dioxolane
A mixture of 4-(1,1,2,2-tetrafluoroethoxy)methyl-2,2-dimethyl-1,3-dioxolane (6.8 g), 2-bromo-1-(2,4-dichlorophenyl)ethanone (6 g.), sulphuric acid (0.3 ml at 96%) is heated at 120° C. for 3 hours, the acetone being formed in the reaction being distilled off.

reactant | 4-(1,1,2,2-tetrafluoroethoxy)methyl-2,2-dimethyl-1,3-dioxolane | 6.8 g | FC(C(F)F)(OCC1OC(OC1)(C)C)F | C8H12F4O3
reactant | 2-bromo-1-(2,4-dichlorophenyl)ethanone | 6 g | BrCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5BrCl2O
reactant | sulphuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetone | CC(=O)C | C3H6O
product | 2-(2,4-dichlorophenyl)-2-bromomethyl-4-(1,1,2,2-tetrafluoroethoxy)methyl-1,3-dioxolane | ClC1=C(C=CC(=C1)Cl)C1(OCC(O1)COC(C(F)F)(F)F)CBr | C13H11BrCl2F4O3
